US08895582B2
To a solution of S)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-4,4-dimethyl-5-(phosphonooxy)pentyl 6-fluoroisoquinolin-3-ylcarbamate (340 mg, 0.55 mmol) in MeOH (30 mL) was added NaOH (0.1 N, 10.8 mL, 1.08 mmol) at 0° C. The reaction mixture was stirred at 0° C. for 10 min and concentrated. The residue was dissolved in small amount of water and lyophilized to give sodium (S)-4-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-(6-fluoroisoquinolin-3-ylcarbamoyloxy)-2,2-dimethylpentyl phosphate (343 mg, 94.1%) as white solid. LRMS (M−2Na++3H+) m/z 615.5.

reactant | 2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-4,4-dimethyl-5-(phosphonooxy)pentyl 6-fluoroisoquinolin-3-ylcarbamate | 0.55 mmol, 340 mg | FC=1C=C2C=C(N=CC2=CC1)NC(OCC(CC(COP(=O)(O)O)(C)C)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C)=O | C26H30ClF2N4O7P
reactant | NaOH | 1.08 mmol, 0.1 N, 10.8 mL | [OH-].[Na+]
solvent | MeOH | 30 mL | CO | CH4O
product | sodium (S)-4-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-(6-fluoroisoquinolin-3-ylcarbamoyloxy)-2,2-dimethylpentyl phosphate | 343 mg, 94.1% | P(=O)(OCC(C[C@@H](COC(NC=1N=CC2=CC=C(C=C2C1)F)=O)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C)(C)C)([O-])[O-].[Na+].[Na+] | InChI=1S/C26H30ClF2N4O7P.2Na/c1-26(2,15-40-41(36,37)38)11-20(33(3)24(34)31-13-17-5-4-6-21(29)23(17)27)14-39-25(35)32-22-10-18-9-19(28)8-7-16(18)12-30-22;;/h4-10,12,20H,11,13-15H2,1-3H3,(H,31,34)(H,30,32,35)(H2,36,37,38);;/q;2*+1/p-2/t20-;;/m0../s1
